US07074794B2
2-Amino-3-hydroxypyridine (5.51 g) was dissolved in pyridine (100 mL), and potassium ethylxanthate (8.82 g) was added thereto. The mixture was refluxed for 2 hr. Iced water (400 mL) was added to the reaction mixture, and concentrated hydrochloric acid (40 mL) was added thereto. The mixture was extracted with chloroform and the extract was washed with brine and concentrated under reduced pressure to give 1,3-oxazolo[4,5-b]pyridine-2-thiol (5.13 g) as a pale-brown powder.

reactant | 2-Amino-3-hydroxypyridine | 5.51 g | NC1=NC=CC=C1O | C5H6N2O
reactant | potassium ethylxanthate | 8.82 g | C(C)OC(=S)[S-].[K+]
reactant | water | 400 mL | O | H2O
reactant | hydrochloric acid | 40 mL | Cl | ClH
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 1,3-oxazolo[4,5-b]pyridine-2-thiol | 5.13 g | O1C(=NC2=NC=CC=C21)S | C6H4N2OS
